US08404859B2
Preparation of 5-(4-Fluoro-3-hydroxy-benzylcarbamoyl)-3-methyl-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Methyl-thiophene-2,5-dicarboxylic acid 2-methyl ester (220 mg, 1.10 mmol) in anhydrous DMF (10 mL) was added triethylamine (0.46 mL, 3.30 mmol), HBTU (0.63 g, 1.65 mmol), HOBT (178 mg, 1.32 mmol), and 5-Aminomethyl-2-fluoro-phenol (187 mg, 1.32 mmol). The mixture was stirred at room temperature 15 h, then quenched by pouring into EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 60-80% EtOAc in hexane to afford the desired product (0.3472 g, 98% yield).

reactant | 3-Methyl-thiophene-2,5-dicarboxylic acid 2-methyl ester | 1.10 mmol, 220 mg | COC(=O)C=1SC(=CC1C)C(=O)O | C8H8O4S
reactant | triethylamine | 3.30 mmol, 0.46 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 1.65 mmol, 0.63 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 1.32 mmol, 178 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 5-Aminomethyl-2-fluoro-phenol | 1.32 mmol, 187 mg | NCC=1C=CC(=C(C1)O)F | C7H8FNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-(4-Fluoro-3-hydroxy-benzylcarbamoyl)-3-methyl-thiophene-2-carboxylic acid methyl ester | 0.3472 g, 98% yield | COC(=O)C=1SC(=CC1C)C(NCC1=CC(=C(C=C1)F)O)=O | C15H14FNO4S
